US05360811
1-(4-Methylphenylsulfonyl)-5-(1-dodecynyl)indole-3-carboxaldehyde
To a degassed mixture of 1-(4-methylphenylsulfonyl)-5-bromoindole-3-carboxaldehyde (36.9 g), 1-decyne (16.8 g), in dry triethylamine (200 ml) and dry tetrahydrofuran (150 ml) was added, 1 mole percent of copper (II) iodide and 2 mole percent of bis(triphenylphosphine)palladium (II) chloride. The reaction mixture was stirred at 65° C. for 7 days. The solution was evaporated, and the residue was flash chromatographed (silica gel:4:1, dichloromethane:heptane). The appropriate fractions were collected and evaporated. The residue was recrystallized from hexane to give 23.1 g (50.8%) of product, mp 84°-86° C.

reactant | 1-(4-methylphenylsulfonyl)-5-bromoindole-3-carboxaldehyde | 36.9 g | CC1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)Br)C=O | C16H12BrNO3S
reactant | 1-decyne | 16.8 g | C#CCCCCCCCC | C10H18
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 200 ml | C(C)N(CC)CC | C6H15N
catalyst | copper (II) iodide | [Cu](I)I
catalyst | bis(triphenylphosphine)palladium (II) chloride | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 1-(4-Methylphenylsulfonyl)-5-(1-dodecynyl)indole-3-carboxaldehyde | 23.1 g, 50.8% | CC1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)C#CCCCCCCCCCC)C=O | C28H33NO3S
